US07968711B2
2-(3,5-Dichlorophenyl)-5-methoxypyridazin-3-one
4-Bromo-2-(3,5-dichlorophenyl)-5-methoxypyridazin-3-one (2.5 g, 0.0071 moles) was dissolved in THF (250 ml) and cooled to −50° under nitrogen. 1.6M n-Butyl lithium (6.7 ml, 0.011 moles) was added dropwise with stirring. Allowed to warm to −20° over 1 hour. Added 1 equivalent of 1.6M n-Butyl lithium (4.4 ml, 0.0071 moles) dropwise. Stirred at −20° for 30 minutes. Poured into ammonium chloride solution and stirred for 15 minutes. Extracted with EtOAc (×2) and washed with water. Dried over anhydrous magnesium sulphate, filtered and evaporated to give a brown solid. (3.0 g) Purified using MPLC (silica, eluted with dichloromethane: EtOAc 9:1) to give a yellow solid. (0.25 g, 13%) Not pure used directly in the next reaction.

reactant | 4-Bromo-2-(3,5-dichlorophenyl)-5-methoxypyridazin-3-one | 0.0071 moles, 2.5 g | BrC=1C(N(N=CC1OC)C1=CC(=CC(=C1)Cl)Cl)=O | C11H7BrCl2N2O2
reactant | n-Butyl lithium | 0.011 moles, 1.6M, 6.7 ml | C(CCC)[Li]
reactant | n-Butyl lithium | 0.0071 moles, 1.6M, 4.4 ml, 1 equivalent | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Dichlorophenyl)-5-methoxypyridazin-3-one | ClC=1C=C(C=C(C1)Cl)N1N=CC(=CC1=O)OC | C11H8Cl2N2O2
